* jj subcircuit
.subckt josephson_junction n1 n2
C1 n1 n2 {C}
B1 n1 n2 I={Ic}*sin(V(n,n2))+((1+{a}*cos(V(n,n2))/{Rq})*V(n1,n2))
B2 n2 n I={k}*V(n1,n2)
R1 n n2 {Rn}
C2 n n2 {Cn} IC={phase}
.param Ic=35u a=0 Rq=1 C=10f
.param k=3000 Cn=1p Rn=1G phase=0
.ends josephson_junction
